2106-04-27 09:03:00 Physician Attending Progress Note
Chief Complaint: Intracranial Hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Very poor neuro exam this AM (off propofol for at least 2 hrs) on eval
   by neurology and neurosurg --> no spontaneous movement, no movement to
   noxious stimuli, no corneals, pos reaction of R pupil, overbreathing
   ventilatior
   24 Hour Events:
 INVASIVE VENTILATION - START [**2106-4-27**] 02:55 AM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-27**] 03:30 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-4-27**] 07:59 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-4-27**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 109 (78 - 109) bpm
   BP: 106/79(88) {105/72(83) - 119/82(94)} mmHg
   RR: 34 (18 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             657 mL
   PO:
             TF:
   IVF:
   657 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    475 mL
   Urine:
   NG:
   275 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    184 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   Compliance: 49 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/32/158/22/0
   Ve: 16.2 L/min
   PaO2 / FiO2: 395
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: R pupil reactive (with room lights off), L pupil
   not visualized [**3-9**] cataract
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, 2 decubitus ulcers on L side of back corresponding to
   pressure points from lying on side
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed, overbreathing ventilator to the
   30s
   Labs / Radiology
   13.0 g/dL
   313 K/uL
   367 mg/dL
   3.7 mg/dL
   22 mEq/L
   4.4 mEq/L
   208 mg/dL
   123 mEq/L
   160 mEq/L
   41.5 %
   13.6 K/uL
        [image002.jpg]
                             [**2106-4-27**]  05:06 AM
                             [**2106-4-27**]  06:19 AM
   WBC
   13.6
   Hct
   41.5
   Plt
   313
   Cr
   3.7
   TCO2
   23
   Glucose
   367
   Other labs: PT / PTT / INR:12.9/22.8/1.1, Differential-Neuts:84.0 %,
   Band:1.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:2.0 mmol/L,
   Ca++:8.5 mg/dL, Mg++:3.7 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
 INTRACEREBRAL HEMORRHAGE (ICH)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
   55 yo man with large intracranial hemmorhage - R thalamic,
   intraventricular bleed with midline shift.  It appears that he was down
   at home for some time given the pressure ulcers on his L side.  His
   prognosis is very poor in light of timecourse, severity of bleed, and
   poor neuro exam.  Appreciate neurosurgical and neurology input - agree
   that any neurological intervention at this time would not change the
   outcome for this unfortunate gentleman.
   1. ICH: Cont to monitor BP to keep MAP < 110.  Do not overcorrect
   sodium to quickly.  Keep pCO2 in low 30s if possible
   2. Hypernatremia: Check frequently, correct only slowly.
   3. Acute Renal Failure: Cont to montior
   4. Respiratory Failure: Cont current vent settings
   5. GI Bleed: Trend Hcts
   Will need to confirm his identity definitively so we can address goals
   of care.  Have consulted social work.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-4-27**] 03:25 AM
   18 Gauge - [**2106-4-27**] 03:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2106-04-28 07:07:00 Physician Resident Progress Note
Chief Complaint: Found Unresponsive
   24 Hour Events:
   Pt. did well overnight, did not require pressors, now withdrawing to
   painful stimuli.
   [**Name (NI) 434**] father to come in today from [**Name (NI) 14124**].
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-27**] 03:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-28**] 04:12 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-4-27**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-28**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 107 (97 - 112) bpm
   BP: 142/82(101) {86/65(73) - 163/103(121)} mmHg
   RR: 35 (28 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,013 mL
                                                                  2,119 mL
   PO:
             TF:
   IVF:
                                                                  4,613 mL
                                                                  1,719 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    900 mL
   Urine:
                                                                  1,120 mL
                                                                    900 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                  3,418 mL
                                                                  1,219 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 455 (455 - 455) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/31/207/21/0
   Ve: 15.8 L/min
   PaO2 / FiO2: 518
   Physical Examination
   Gen:  NAD, intubated
   HEENT:  R pupil RRL, L difficult to assess d/t corneal abnormality
   Pulm: CTAB anteriorly
   CV: RRR, mildly tachy, no m/c/r
   Abd:  flat, soft, ND, + BS
   Peripheral Vascular: pulses 2+ all 4 ext, no edema
   Skin:  warm, multiple areas of breakdown and necrosis
   Neurologic: R pupil reactive, corneal reflex present, DTRs not present,
   toes are not upgoing with babinski, but do not move, not responding to
   painful stimuli
   Labs / Radiology
   294 K/uL
   11.8 g/dL
   135 mg/dL
   4.3 mg/dL
   21 mEq/L
   4.0 mEq/L
   165 mg/dL
   129 mEq/L
   162 mEq/L
   35.0 %
   18.3 K/uL
        [image002.jpg]
                             [**2106-4-27**]  05:06 AM
                             [**2106-4-27**]  06:19 AM
                             [**2106-4-27**]  09:05 AM
                             [**2106-4-27**]  02:38 PM
                             [**2106-4-27**]  06:29 PM
                             [**2106-4-27**]  06:50 PM
                             [**2106-4-27**]  11:17 PM
                             [**2106-4-28**]  04:14 AM
                             [**2106-4-28**]  04:32 AM
   WBC
   13.6
   15.4
   16.9
   18.3
   Hct
   41.5
   41.7
   39.3
   35.0
   Plt
   [**Telephone/Fax (3) 14142**]94
   Cr
   3.7
   4.1
   4.6
   4.5
   4.4
   4.3
   TropT
   0.04
   0.03
   TCO2
   23
   23
   23
   Glucose
   367
   96
   176
   195
   114
   135
   Other labs: PT / PTT / INR:13.3/27.2/1.1, CK / CKMB /
   Troponin-T:956/12/0.03, ALT / AST:70/63, Alk Phos / T Bili:58/2.2,
   Differential-Neuts:84.0 %, Band:1.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:334 IU/L, Ca++:8.0
   mg/dL, Mg++:3.0 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   55 yo M with unknown past medical history presents after being found
   down with intraparenchymal hemorrhage, respiratory failure, acute renal
   failure, hypothermia, GI bleeding, hypernatremia, anion-gap acidosis.
   # Intraparenchymal hemorrhage:  CTA of head indicated right thalamic
   bleed with IVH and hydrocephalus, midline shift, with repeat CT stable
   to slightly worse. Concerns in the setting of IPH include herniation,
   hydrocephalus, and vasospasm. Neurology and neurosurgery saw the
   patient in the emergency room and did not recommend interventions.
   Dilantin was DC
d.  Neurologic exam is difficult to interpret.  He had
   some response to pain yesterday, although this morning, off propofol he
   is not responding.
   - Appreciate neurology recommendations.
   - neuro checks q1-2 hours per discussion
   - keep HOB > 30 degrees
   - BP control keep SBP between 120-160, MAP < 110
   - no antiplatelet agents, no hepSubQ for 48-72 hours
   - Obtain FLP, HgA1c, trend CEs
   - Tylenol PRN for normothermia
   - stroke consult service recommendations
   # Respiratory failure: Pt was intubated at OSH for airway protection/
   respiratory failure. ABG in ED showed 7.31/49/510. CXR is clear.
   - Decrease FiO2
   - wean vent as tolerated
   # Hypothermia: Possible reasons for pt's hypothermia include: central
   hypothermia, exposure, infection, hypothyroidism, adrenal
   insufficiency.
   - BAIR hugger prn, now off since yesterday
   - Will hold on checking [**Last Name (un) 402**] stim for now as pt maintaining BP's
   - Check TSH, blood, urine cultures
   # GI bleeding: Guaiac positive in ED, with oozing present, and now with
   maroon stool overnight. BUN elevated, but hct of 44 is likely elevated
   secondary to dehydration. Differential for GIB in this pt with unknown
   past medical history is broad, including gastritis, PUD, [**First Name4 (NamePattern1) 241**] [**Last Name (NamePattern1) 37**]
   tear, lower GI bleed, diverticulosis, AVM.
   - Active T+S
   - PPI
   - Serial hct's (q6 hr)
   - Consider GI c/s once other issues stabilize if GIB continues
   - Obtain OSH/PCP records once identity established
   # Hypernatremia: Na 162 likely due to hypovolemic hypernatremia.
   Adjusted serum sodium level for hyperglycemia is 167. Free water
   deficit is approximately 7.2L.
   - replace free water (D5 at 200cc/h) as well as through TF flushes
   - q6h lytes
   - recheck urine lytes, ? evolving additional DI etiology
   # Acute renal failure: Unknown baseline creatinine. Suspect that
   rhabdomyolysis (CK 850) contributing to renal failure, also likely a
   component of prerenal etiology.
   - resend urine lytes as above
   - f/u u/o
   # Rhabdomyolysis: CK is rising (600->800) likely secondary to
   rhabdomyolysis after being down for unknown period of time.
   - Continue IVF
   - Trend CK [**Hospital1 7**]
   # NSTEMI/Troponin leak: At OSH pt had trop I of 0.06. EKG does not show
   evidence of ST changes.
   - Trend CE
   - Serial EKG's
   - Telemetry
   # Sacral ulcers: Large (8cm in diameter) eschars on L back and coccyx
   and heel suggest that patient was down for several days.
   - Follow wound care recs
   - Consider surgery c/s for debridement pending family discussion
   # Identification: Call pt's father again in am to obtain pt's brother's
   phone number. Father was unable to locate number in the middle of the
   night as he is elderly.
   Information thus far:
   Pt's name: [**Known firstname **] [**Known lastname 14108**]
   - Picked up at:
   [**Location (un) 14111**]. [**Apartment Address(1) **]
   [**Name (NI) 880**], MA
   Father: [**Name (NI) 31**]
   [**2106**]
   Brother: [**Name (NI) 1053**]
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines: 4 peripherals + a-line
   20 Gauge - [**2106-4-27**] 03:20 AM
   18 Gauge - [**2106-4-27**] 04:00 PM
   A-Line
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:  vanco/zosyn
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2106-04-28 09:41:00 Physician Attending Progress Note
Chief Complaint: Intracranial hemorrhage
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Withdrawing slightly more to pain when propofol off
   24 Hour Events:
   Head CT overnight prelim: slightly more intraventricular blood but
   otherwise stable
   History obtained from Medical records, icu team
   Patient unable to provide history: Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-27**] 03:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-28**] 08:32 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2106-4-28**] 08:08 AM
   Pantoprazole (Protonix) - [**2106-4-28**] 08:31 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-4-28**] 09:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.1
C (98.8
   HR: 101 (97 - 112) bpm
   BP: 124/80(95) {86/65(73) - 163/103(121)} mmHg
   RR: 33 (29 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,013 mL
                                                                  2,863 mL
   PO:
             TF:
   IVF:
                                                                  4,613 mL
                                                                  2,263 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                  1,150 mL
   Urine:
                                                                  1,120 mL
                                                                  1,150 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                  3,418 mL
                                                                  1,713 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 455 (455 - 455) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.46/31/207/21/0
   Ve: 13.4 L/min
   PaO2 / FiO2: 518
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: R pupil reactive, L with cataract
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed,
   pos R corneal, no L corneal
   Labs / Radiology
   11.8 g/dL
   294 K/uL
   135 mg/dL
   4.3 mg/dL
   21 mEq/L
   4.0 mEq/L
   165 mg/dL
   129 mEq/L
   162 mEq/L
   35.0 %
   18.3 K/uL
        [image002.jpg]
                             [**2106-4-27**]  05:06 AM
                             [**2106-4-27**]  06:19 AM
                             [**2106-4-27**]  09:05 AM
                             [**2106-4-27**]  02:38 PM
                             [**2106-4-27**]  06:29 PM
                             [**2106-4-27**]  06:50 PM
                             [**2106-4-27**]  11:17 PM
                             [**2106-4-28**]  04:14 AM
                             [**2106-4-28**]  04:32 AM
   WBC
   13.6
   15.4
   16.9
   18.3
   Hct
   41.5
   41.7
   39.3
   35.0
   Plt
   [**Telephone/Fax (3) 14142**]94
   Cr
   3.7
   4.1
   4.6
   4.5
   4.4
   4.3
   TropT
   0.04
   0.03
   TCO2
   23
   23
   23
   Glucose
   367
   96
   176
   195
   114
   135
   Other labs: PT / PTT / INR:13.3/27.2/1.1, CK / CKMB /
   Troponin-T:956/12/0.03, ALT / AST:70/63, Alk Phos / T Bili:58/2.2,
   Differential-Neuts:84.0 %, Band:1.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL, LDH:334 IU/L, Ca++:8.0
   mg/dL, Mg++:3.0 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPERNATREMIA (HIGH SODIUM)
 RHABDOMYOLYSIS
 INEFFECTIVE COPING
 INTRACEREBRAL HEMORRHAGE (ICH)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
   55 yo man with large intracranial hemmorhage - R thalamic,
   intraventricular bleed with midline shift.  It appears that he was down
   at home for some time given the pressure ulcers on his L side.  His
   bleed is stable but his neuro exam remains poor.  However, ability to
   assess his level of consciousness clouded by his metabolic derangements
   1. ICH: Cont to monitor BP to keep MAP < 110 - inrange while on
   sedation.
   2. Hypernatremia: Though his urine osms did not reflect loss of fH20
   yesterday, our inability to correct his Na with significant fH20
   repletion is c/w DI.  Will recheck urine lytes and increase fH20
   repletion
   3. Acute Renal Failure: Cont to give saline and monitor.  CK trending
   down.  Cont to monitor Cr.
   4. Respiratory Failure: Cont current vent settings
   5. GI Bleed: Con to trend Hcts
   6. Decubitus ulcers: Wound care
   [**Name (NI) **] father is reportedly coming in this morning - will meet with
   him.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-4-27**] 03:20 AM
   18 Gauge - [**2106-4-27**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2106-04-29 07:36:00 Physician Resident Progress Note
24 Hour Events:
   Family meeting held with neuro-stroke, MICU, SW, pt's father, brother,
   and sister-in-law.  Family still deciding about goals of care.  Will
   optimize sodium.
   Surgery came to debride wounds, 5 silk sutures placed to stop bleeding
   at wound edge - to be removed on [**5-2**]
   On the morning of [**4-29**] pt. began having bright red blood from the
   flexiseal.  Stat Hct sent, 2 units ordered for transfusion.
   Per OSH has GNR in blood cx.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-28**] 11:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-29**] 02:01 AM
   Infusions:
   Insulin - Regular - 4 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2106-4-28**] 08:31 AM
   Propofol - [**2106-4-28**] 05:00 PM
   Fentanyl - [**2106-4-29**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-29**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.1
C (98.8
   HR: 101 (81 - 102) bpm
   BP: 124/67(84) {117/59(79) - 205/111(140)} mmHg
   RR: 28 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,075 mL
                                                                  2,144 mL
   PO:
             TF:
   IVF:
                                                                  5,875 mL
                                                                  1,744 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                  1,195 mL
   Urine:
                                                                  2,775 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,300 mL
                                                                    949 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.52/35/208/20/6
   Ve: 13.3 L/min
   PaO2 / FiO2: 520
   Physical Examination
   Gen: intubated, does not follow commands or respond to name
   HEENT: L eye w/ crusting. R eye + corneal reflex
   Cards: tachy, regular, no m/r/g
   Resp: CTAB
   Abd: soft, nt/nd, +BS,
   Ext: WWP, no c/c/e.
   Neuro: Corneal reflexes intact. Does not follow commands, does not
   withdraw to painful stimuli.
   Labs / Radiology
   232 K/uL
   10.4 g/dL
   162 mg/dL
   3.2 mg/dL
   20 mEq/L
   3.3 mEq/L
   114 mg/dL
   118 mEq/L
   150 mEq/L
   30.7 %
   23.6 K/uL
        [image002.jpg]
                             [**2106-4-27**]  06:29 PM
                             [**2106-4-27**]  06:50 PM
                             [**2106-4-27**]  11:17 PM
                             [**2106-4-28**]  04:14 AM
                             [**2106-4-28**]  04:32 AM
                             [**2106-4-28**]  10:05 AM
                             [**2106-4-28**]  03:59 PM
                             [**2106-4-28**]  10:09 PM
                             [**2106-4-29**]  03:26 AM
                             [**2106-4-29**]  05:58 AM
   WBC
   16.9
   18.3
   23.6
   Hct
   39.3
   35.0
   32.9
   31.8
   30.0
   30.7
   Plt
   [**Telephone/Fax (3) 14167**]
   Cr
   4.5
   4.4
   4.3
   4.1
   3.8
   3.5
   3.2
   TropT
   0.03
   0.03
   TCO2
   23
   23
   30
   Glucose
   195
   114
   135
   86
   105
   84
   162
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:808/12/0.03, ALT / AST:70/63, Alk Phos / T Bili:58/2.2,
   Differential-Neuts:84.0 %, Band:1.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL, LDH:334 IU/L, Ca++:7.6
   mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   55 yo M with unknown past medical history presents after being found
   down with intraparenchymal hemorrhage, respiratory failure, acute renal
   failure, hypothermia, GI bleeding, hypernatremia, anion-gap acidosis.
   # Intraparenchymal hemorrhage:  CTA of head indicated right thalamic
   bleed with IVH and hydrocephalus, midline shift, with repeat CT stable
   to slightly worse. Concerns in the setting of IPH include herniation,
   hydrocephalus, and vasospasm. Neurology and neurosurgery saw the
   patient in the emergency room and did not recommend interventions.
   Dilantin was DC
d.  Neurologic exam is difficult to interpret.  He had
   some response to pain yesterday, although this morning, off propofol he
   is not responding. Initial read of new head CT does not show any
   evidence of hydrocephalus.
   - f/u final read of this morning
s head CT: progression of bleed and ?
   cerebellar lesion
   - Appreciate neurology recommendations.
   - neuro checks q1-2 hours per discussion
   - keep HOB > 30 degrees
   - BP control keep SBP between 120-160, MAP < 110
   - no antiplatelet agents, no hepSubQ for 48-72 hours
   - Obtain FLP, HgA1c, trend CEs
   - Tylenol PRN for normothermia
   # GI bleed: Pt w/ large amount of melena/brb output per flexi seal
   - transfuse 2 units hct
   - active t+s, type and cross as well
   - GI consulted, appreciate recs
   - proctoscopy to evaluate possibility of distal lesion (sugery vs
   proctoscopy)
   - continue protonix
   - 3 large bore IVs
   - discuss goals of care w/ family for possible EGD
   - DDVAP for uremic platelets in setting of bleed and possible procedure
   # goals of care
   - family came in yesterday. Brother apparently wants [**Name (NI) 580**], but father
   unsure. Family to return today.
   - must obtain ICU consent
   # Respiratory failure: Pt was intubated at OSH for airway protection/
   respiratory failure. ABG in ED showed 7.31/49/510. CXR remains clear.
   - Decrease FiO2
   - Continue on vent for airway protection
   # Bacteremia: GNR on outside hospital labs
   - call for further speciation
   - will follow cultures here which are all still NGTD
   # Hypernatremia: Na 162 on admission likely due to hypovolemic
   hypernatremia. Adjusted serum sodium level for hyperglycemia is 167.
   Free water deficit is approximately 7.2L.  Na to 150 this AM
   - decrease free water repletion rate to D5 at 75/hr to prevent overly
   rapid correction particularly as hypertonicity may be protective in
   setting of brain bleed
   - no NS for now as getting blood
   - q6h lytes
   # Acute renal failure: Unknown baseline creatinine. Unlikely that
   rhabdomyolysis contributing to renal failure given relatively low
   level, more likely a component of prerenal etiology.
   - resend urine lytes as above
   - f/u u/o
   # Rhabdomyolysis: CK is rising (600->800) likely secondary to
   rhabdomyolysis after being down for unknown period of time.
   - Continue IVF
   - Trend CK [**Hospital1 7**]
   # Sacral ulcers: Large (8cm in diameter) eschars on L back and coccyx
   and heel suggest that patient was down for several days.
   - Follow wound care recs
   - Debrided by surgery yesterday
   - Appreciate [**Doctor First Name 213**] recs
   - sutures need to be removed [**5-2**]
   # NSTEMI/Troponin leak: At OSH pt had trop I of 0.06. EKG does not show
   evidence of ST changes. CKs here attributed to rhabdo. No longer an
   active issue.
   # Hypothermia: Possible reasons for pt's hypothermia include: central
   hypothermia, exposure, infection, hypothyroidism, adrenal
   insufficiency.
   - BAIR hugger prn, now off since yesterday
   - Will hold on checking [**Last Name (un) 402**] stim for now as pt maintaining BP's
   - Check TSH, blood, urine cultures
   # Identification: Call pt's father again in am to obtain pt's brother's
   phone number. Father was unable to locate number in the middle of the
   night as he is elderly.
   Information thus far:
   Pt's name: [**Known firstname **] [**Known lastname 14108**]
   - Picked up at:
   [**Location (un) 14111**]. [**Apartment Address(1) **]
   [**Name (NI) 880**], MA
   Father: [**Name (NI) 31**]
   [**2106**]
   Brother: [**Name (NI) 1053**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-4-27**] 03:20 AM
   18 Gauge - [**2106-4-27**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-04-29 09:16:00 Physician Attending Progress Note
Chief Complaint: ICH, Hypernatremia, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Per report, some spontaneous movement of R eye
   24 Hour Events:
 BLOOD CULTURED - At [**2106-4-28**] 09:12 PM
   x2 for right ac and left upper arm
 SPUTUM CULTURE - At [**2106-4-28**] 11:13 PM
   thick yellow
   BRBPR this AM - felt by GI to be proximal source given non-bloody
   stool.  Recommended protoscope
   Growing GNRs from blood cxs from [**Hospital 880**] Hospital
   History obtained from Medical records, icu team
   Patient unable to provide history: Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-28**] 11:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-29**] 02:01 AM
   Piperacillin - [**2106-4-29**] 08:53 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Propofol - [**2106-4-28**] 05:00 PM
   Fentanyl - [**2106-4-29**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-4-29**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.9
C (98.5
   HR: 101 (81 - 102) bpm
   BP: 124/67(84) {117/59(79) - 205/111(140)} mmHg
   RR: 28 (16 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,075 mL
                                                                  2,816 mL
   PO:
             TF:
   IVF:
                                                                  5,875 mL
                                                                  2,416 mL
   Blood products:
   Total out:
                                                                  2,775 mL
                                                                  1,195 mL
   Urine:
                                                                  2,775 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,300 mL
                                                                  1,621 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 15 cmH2O
   Plateau: 13 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.52/35/208/20/6
   Ve: 13.3 L/min
   PaO2 / FiO2: 520
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: R pupil reactive but minimally so, L cataract
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, blinks
   spontaneously with light being shined in R eye
   Labs / Radiology
   10.4 g/dL
   232 K/uL
   162 mg/dL
   3.2 mg/dL
   20 mEq/L
   3.3 mEq/L
   114 mg/dL
   118 mEq/L
   150 mEq/L
   28.3 %
   23.6 K/uL
        [image002.jpg]
                             [**2106-4-27**]  06:50 PM
                             [**2106-4-27**]  11:17 PM
                             [**2106-4-28**]  04:14 AM
                             [**2106-4-28**]  04:32 AM
                             [**2106-4-28**]  10:05 AM
                             [**2106-4-28**]  03:59 PM
                             [**2106-4-28**]  10:09 PM
                             [**2106-4-29**]  03:26 AM
                             [**2106-4-29**]  05:58 AM
                             [**2106-4-29**]  06:28 AM
   WBC
   18.3
   23.6
   Hct
   35.0
   32.9
   31.8
   30.0
   30.7
   28.3
   Plt
   294
   232
   Cr
   4.4
   4.3
   4.1
   3.8
   3.5
   3.2
   TropT
   0.03
   TCO2
   23
   23
   30
   Glucose
   114
   135
   86
   105
   84
   162
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:808/12/0.03, ALT / AST:70/63, Alk Phos / T Bili:58/2.2,
   Differential-Neuts:84.0 %, Band:1.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.4 mmol/L, Albumin:3.0 g/dL, LDH:334 IU/L, Ca++:7.6
   mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPERNATREMIA (HIGH SODIUM)
 RHABDOMYOLYSIS
 INEFFECTIVE COPING
 INTRACEREBRAL HEMORRHAGE (ICH)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
   55 yo man with large intracranial hemmorhage - R thalamic,
   intraventricular bleed with midline shift.
   1. ICH: Head CT from this AM appears to have stable bleed but ?new L
   cerebellar lesion - will await read from radiology.  Neurology team
   fokllowing
   2. Hypernatremia: Na improving - will slow rate of free H20 repletion
   3. GI Bleed/Blood Loss Anemia: Having BRBPR, hemodynamically stable.
   Trend Hcts.  GI, surgery consulting for potential anal bleeding.
   4. GNR bactremia: Cont Zosyn plus vanc empirically
   5. Acute Renal Failure: Cr continues to trend down
   6. Respiratory Failure: Cont current vent settings
   7. Decubitus ulcers: Wound care.  Surgery consulting - debrided
   yesterday.  Appreciate their input
   Events of family meeting detailed in Dr.[**Name (NI) 14170**] note from yesterday -
   there is not consensus between father and brother re: goals of care,
   though it appears that the patient himself would not necessarily want
   to pursue an aggressive course if his functional status would be
   limited.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-4-27**] 03:20 AM
   18 Gauge - [**2106-4-27**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill
   ------ Protected Section ------
   Pt went to tagged RBC scan to localize rectal bleeding
 thought on
   scan to localize to the sigmoid.  Take to angio for intervention but
   active bleeding no longer visualized by angio.
   Pt has also continued to have persistent respiratory acidosis with MV
   17-20 over the course of the day.
   Met with pt
s brother [**Name (NI) **] to update on current status, include new
   head CT findings, GI bleed, and persistent respiratory alkalosis.  He
   reiterated that the patient would not want aggressive interventions if
   his neurologic prognosis included ongoing motor deficits or worse.
   Then met with both the pt
s brother and father [**Name (NI) 653**] together
 they
   have decided to make the patient DNR.  If he continues to do poorly
   over the course of the day, they will likely change goals to CMO.
   Pt is critically ill.  Time spent 60 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2682**] [**Name8 (MD) 2683**], MD
   on:[**2106-4-29**] 18:32 ------

2106-04-30 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt w/ very large amount of bright and dark RBPR since early AM. Surgery
   and GI consulted. Pt went for tagged RBC scan which showed active
   sigmoidal bleed. Went to IR angio but they did not intervene as Pt was
   actively bleeding. Transfused 2 units in AM, Hct relatively stable
   28--30 on multiple Hct checks. Started on Levophed for hypotension,
   tachycardia around 4pm. Pt notably diaphoretic. At 9:30 PM passed very
   large clot per rectum and blood spilling out afterwards. Hct ordered.
   Transfused 2 more units. Pressures came up on his own. Now off
   pressures.
   Discussions held with [**Name (NI) 434**] brother and father throughout the day.
   Brother expressed desire to move Pt towards CMO. Father more reluctant
   to do so, but seems to be considering and may make CMO in AM. Pt DNR
   now.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-28**] 11:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-29**] 08:14 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2106-4-29**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-30**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 103 (91 - 108) bpm
   BP: 140/83(66) {80/54(63) - 157/91(109)} mmHg
   RR: 31 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                 11,040 mL
                                                                  1,145 mL
   PO:
           TF:
   IVF:
                                                                  8,774 mL
                                                                    605 mL
   Blood products:
                                                                  1,867 mL
                                                                    540 mL
   Total out:
                                                                  2,900 mL
                                                                    760 mL
   Urine:
                                                                  2,500 mL
                                                                    760 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  8,140 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 12 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.47/27/416/16/-1
   Ve: 18.8 L/min
   PaO2 / FiO2: 1,040
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   9.4 g/dL
   119 mg/dL
   2.6 mg/dL
   16 mEq/L
   3.9 mEq/L
   95 mg/dL
   122 mEq/L
   147 mEq/L
   25.3 %
   18.7 K/uL
        [image002.jpg]
                             [**2106-4-29**]  05:58 AM
                             [**2106-4-29**]  06:28 AM
                             [**2106-4-29**]  10:00 AM
                             [**2106-4-29**]  10:17 AM
                             [**2106-4-29**]  12:41 PM
                             [**2106-4-29**]  04:20 PM
                             [**2106-4-29**]  04:37 PM
                             [**2106-4-29**]  09:14 PM
                             [**2106-4-30**]  02:25 AM
                             [**2106-4-30**]  06:56 AM
   WBC
   20.3
   21.9
   18.7
   Hct
   28.3
   30.7
   28.0
   23.3
   26.6
   25.3
   Plt
   223
   152
   134
   Cr
   2.8
   2.7
   2.7
   2.6
   TCO2
   30
   23
   20
   20
   Glucose
   193
   115
   155
   119
   Other labs: PT / PTT / INR:15.0/30.9/1.3, CK / CKMB /
   Troponin-T:808/12/0.03, ALT / AST:70/63, Alk Phos / T Bili:58/2.2,
   Differential-Neuts:84.0 %, Band:1.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:334 IU/L, Ca++:6.8
   mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   55 yo M with unknown past medical history presents after being found
   down with intraparenchymal hemorrhage, respiratory failure, acute renal
   failure, hypothermia, GI bleeding, hypernatremia, anion-gap acidosis.
   # Intraparenchymal hemorrhage:  CTA of head indicated right thalamic
   bleed with IVH and hydrocephalus, midline shift, with repeat CT stable
   to slightly worse. Concerns in the setting of IPH include herniation,
   hydrocephalus, and vasospasm. Neurology and neurosurgery saw the
   patient in the emergency room and did not recommend interventions.
   Dilantin was DC
d.  Neurologic exam is difficult to interpret.  He had
   some response to pain yesterday, although this morning, off propofol he
   is not responding. Initial read of new head CT does not show any
   evidence of hydrocephalus.
   - f/u final read of this morning
s head CT: progression of bleed and ?
   cerebellar lesion
   - Appreciate neurology recommendations.
   - neuro checks q1-2 hours per discussion
   - keep HOB > 30 degrees
   - BP control keep SBP between 120-160, MAP < 110
   - no antiplatelet agents, no hepSubQ for 48-72 hours
   - Obtain FLP, HgA1c, trend CEs
   - Tylenol PRN for normothermia
   # GI bleed: Pt w/ large amount of melena/brb output per flexi seal and
   passed large clot yesterday, transfused total of 4 units yesterday, IR
   felt unable to intervene on clot
   - active t+s, type and cross as well
   - GI consulted, appreciate recs
   - continue protonix
   - 3 large bore IVs
   # goals of care
   - family discussions pending, patient currently made DNR, considering
   CMO
   # Respiratory failure: Pt was intubated at OSH for airway protection/
   respiratory failure. ABG in ED showed 7.31/49/510. CXR remains clear.
   - Decrease FiO2
   - Continue on vent for airway protection
   # Bacteremia: GNR on outside hospital labs
   - call for further speciation
   - will follow cultures here which are all still NGTD
   # Hypernatremia: Na now 147 from 162 on admission likely due to
   hypovolemic hypernatremia. Adjusted serum sodium level for
   hyperglycemia is 167. Free water deficit was approximately 7.2L. Na to
   147 this AM
   - decrease free water repletion rate to D5 at 75/hr to prevent overly
   rapid correction particularly as hypertonicity may be protective in
   setting of brain bleed
   - no NS for now as getting blood
   - q6h lytes
   # Acute renal failure: Resolving, unknown baseline creatinine. Unlikely
   that rhabdomyolysis contributing to renal failure given relatively low
   level, more likely a component of prerenal etiology.
   - f/u u/o
   # Rhabdomyolysis: CK is rising (600->800) likely secondary to
   rhabdomyolysis after being down for unknown period of time.
   - Continue IVF
   - Trend CK [**Hospital1 7**]
   # Sacral ulcers: Large (8cm in diameter) eschars on L back and coccyx
   and heel suggest that patient was down for several days.
   - Follow wound care recs
   - Debrided by surgery yesterday
   - Appreciate [**Doctor First Name 213**] recs
   - sutures need to be removed [**5-2**]
   # NSTEMI/Troponin leak: At OSH pt had trop I of 0.06. EKG does not show
   evidence of ST changes. CKs here attributed to rhabdo. No longer an
   active issue.
   # Hypothermia: Possible reasons for pt's hypothermia include: central
   hypothermia, exposure, infection, hypothyroidism, adrenal
   insufficiency.
   - BAIR hugger prn, now off since yesterday
   - Will hold on checking [**Last Name (un) 402**] stim for now as pt maintaining BP's
   - Check TSH, blood, urine cultures
   # Identification: Call pt's father again in am to obtain pt's brother's
   phone number. Father was unable to locate number in the middle of the
   night as he is elderly.
   Information thus far:
   Pt's name: [**Known firstname **] [**Known lastname 14108**]
   - Picked up at:
   [**Location (un) 14111**]. [**Apartment Address(1) **]
   [**Name (NI) 880**], MA
   Father: [**Name (NI) 31**]
   [**2106**]
   Brother: [**Name (NI) 1053**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-4-29**] 10:20 AM
   Multi Lumen - [**2106-4-29**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-04-30 09:13:00 Physician Attending Progress Note
Chief Complaint: ICH, Bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Passed a large softball sized clot from rectum last PM
   24 Hour Events:
 MULTI LUMEN - START [**2106-4-29**] 01:00 PM --> R femoral
 NUCLEAR MEDICINE - At [**2106-4-29**] 01:44 PM
   red tag study
   History obtained from Medical records, icu team
   Patient unable to provide history: Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-28**] 11:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-29**] 08:14 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2106-4-30**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 102 (91 - 108) bpm
   BP: 145/77(97) {80/54(63) - 157/91(109)} mmHg
   RR: 21 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                 11,040 mL
                                                                  1,234 mL
   PO:
           TF:
   IVF:
                                                                  8,774 mL
                                                                    694 mL
   Blood products:
                                                                  1,867 mL
                                                                    540 mL
   Total out:
                                                                  2,900 mL
                                                                    760 mL
   Urine:
                                                                  2,500 mL
                                                                    760 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  8,140 mL
                                                                    474 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 12 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.47/27/416/16/-1
   Ve: 18.8 L/min
   PaO2 / FiO2: 1,040
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed, does not
   withdraw to pain
   Labs / Radiology
   9.4 g/dL
   134 K/uL
   119 mg/dL
   2.6 mg/dL
   16 mEq/L
   3.9 mEq/L
   95 mg/dL
   122 mEq/L
   147 mEq/L
   25.3 %
   18.7 K/uL
        [image002.jpg]
                             [**2106-4-29**]  05:58 AM
                             [**2106-4-29**]  06:28 AM
                             [**2106-4-29**]  10:00 AM
                             [**2106-4-29**]  10:17 AM
                             [**2106-4-29**]  12:41 PM
                             [**2106-4-29**]  04:20 PM
                             [**2106-4-29**]  04:37 PM
                             [**2106-4-29**]  09:14 PM
                             [**2106-4-30**]  02:25 AM
                             [**2106-4-30**]  06:56 AM
   WBC
   20.3
   21.9
   18.7
   Hct
   28.3
   30.7
   28.0
   23.3
   26.6
   25.3
   Plt
   223
   152
   134
   Cr
   2.8
   2.7
   2.7
   2.6
   TCO2
   30
   23
   20
   20
   Glucose
   193
   115
   155
   119
   Other labs: PT / PTT / INR:15.0/30.9/1.3, CK / CKMB /
   Troponin-T:808/12/0.03, ALT / AST:70/63, Alk Phos / T Bili:58/2.2,
   Differential-Neuts:84.0 %, Band:1.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:334 IU/L, Ca++:6.8
   mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 HYPERNATREMIA (HIGH SODIUM)
 RHABDOMYOLYSIS
 INEFFECTIVE COPING
 INTRACEREBRAL HEMORRHAGE (ICH)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
   55 yo man with large intracranial hemmorhage - R thalamic,
   intraventricular bleed with midline shift.
   1. ICH: Neuro exam continues to be poor - continuing with aggressive
   care does not seem to be in line with patient's previouslty stated
   goals of care.
   2. Hypernatremia: Na now 147 - d/c fH20
   3. GI Bleed/Blood Loss Anemia: s/p 6 units pRBCs.  Bleeding has
   appeared to slow for time being
   4. GNR bactremia: Cont Zosyn plus vanc empirically
   5. Acute Renal Failure: Cr slowly trending down
   6. Respiratory Failure: Cont current vent settings
   7. Decubitus ulcers: Cont wound care.  Surgery following
   Given lack of neurological improvement and my conversations with the
   patient's family yesterday, will discuss with them transitioning to CMO
   care today.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-4-29**] 10:20 AM
   Multi Lumen - [**2106-4-29**] 01:00 PM
   Arterial Line - [**2106-4-30**] 08:06 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Met with Mr. [**Known lastname 14108**]
s father, brother, and aunt.  The patient
s care
   will be transitioned to CMO given lack of neurologic improvement and
   his previously stated wishes.  Family requested visit by Catholic
   priest prior to extubation.
   Patient is critically ill.  Time spent 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2682**] [**Name8 (MD) 2683**], MD
   on:[**2106-4-30**] 16:38 ------

2106-04-30 09:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt w/ very large amount of bright and dark RBPR since early AM. Surgery
   and GI consulted. Pt went for tagged RBC scan which showed active
   sigmoidal bleed. Went to IR angio but they did not intervene as Pt was
   actively bleeding. Transfused 2 units in AM, Hct relatively stable
   28--30 on multiple Hct checks. Started on Levophed for hypotension,
   tachycardia around 4pm. Pt notably diaphoretic. At 9:30 PM passed very
   large clot per rectum and blood spilling out afterwards. Hct ordered.
   Transfused 2 more units. Pressures came up on his own. Now off
   pressures.
   Discussions held with [**Name (NI) 434**] brother and father throughout the day.
   Brother expressed desire to move Pt towards CMO. Father more reluctant
   to do so, but seems to be considering and may make CMO in AM. Pt DNR
   now.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-28**] 11:18 AM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-29**] 08:14 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-30**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 102 (91 - 108) bpm
   BP: 145/77(97) {80/54(63) - 157/91(109)} mmHg
   RR: 21 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                 11,040 mL
                                                                  1,262 mL
   PO:
           TF:
   IVF:
                                                                  8,774 mL
                                                                    721 mL
   Blood products:
                                                                  1,867 mL
                                                                    540 mL
   Total out:
                                                                  2,900 mL
                                                                    760 mL
   Urine:
                                                                  2,500 mL
                                                                    760 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  8,140 mL
                                                                    502 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 12 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.47/27/416/16/-1
   Ve: 18.8 L/min
   PaO2 / FiO2: 1,040
   Physical Examination
   Gen: intubated, NAD
   Cardiac: RRR, no R/G/M
   Lungs: coarse bilaterally
   Abdomen: ND, NT, Hyperactive BS
   Extre: no significant edema
   Neuro: + corneal reflex on right, not responsive to painful stimuli
   Labs / Radiology
   134 K/uL
   9.4 g/dL
   119 mg/dL
   2.6 mg/dL
   16 mEq/L
   3.9 mEq/L
   95 mg/dL
   122 mEq/L
   147 mEq/L
   25.3 %
   18.7 K/uL
        [image002.jpg]
                             [**2106-4-29**]  05:58 AM
                             [**2106-4-29**]  06:28 AM
                             [**2106-4-29**]  10:00 AM
                             [**2106-4-29**]  10:17 AM
                             [**2106-4-29**]  12:41 PM
                             [**2106-4-29**]  04:20 PM
                             [**2106-4-29**]  04:37 PM
                             [**2106-4-29**]  09:14 PM
                             [**2106-4-30**]  02:25 AM
                             [**2106-4-30**]  06:56 AM
   WBC
   20.3
   21.9
   18.7
   Hct
   28.3
   30.7
   28.0
   23.3
   26.6
   25.3
   Plt
   223
   152
   134
   Cr
   2.8
   2.7
   2.7
   2.6
   TCO2
   30
   23
   20
   20
   Glucose
   193
   115
   155
   119
   Other labs: PT / PTT / INR:15.0/30.9/1.3, CK / CKMB /
   Troponin-T:808/12/0.03, ALT / AST:70/63, Alk Phos / T Bili:58/2.2,
   Differential-Neuts:84.0 %, Band:1.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:334 IU/L, Ca++:6.8
   mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   55 yo M with unknown past medical history presents after being found
   down with intraparenchymal hemorrhage, respiratory failure, acute renal
   failure, hypothermia, GI bleeding, hypernatremia, anion-gap acidosis.
   # Intraparenchymal hemorrhage:  CTA of head indicated right thalamic
   bleed with IVH and hydrocephalus, midline shift, with repeat CT stable
   to slightly worse. Concerns in the setting of IPH include herniation,
   hydrocephalus, and vasospasm. Neurology and neurosurgery saw the
   patient in the emergency room and did not recommend interventions.
   Dilantin was DC
d.  Neurologic exam is difficult to interpret.  He had
   some response to pain yesterday, although this morning, off propofol he
   is not responding. Initial read of new head CT does not show any
   evidence of hydrocephalus.
   - f/u final read of this morning
s head CT: progression of bleed and ?
   cerebellar lesion
   - Appreciate neurology recommendations and neurosurgery recs
   - neuro checks q1-2 hours per discussion
   - keep HOB > 30 degrees
   - BP control keep SBP between 120-160, MAP < 110
   - no antiplatelet agents, no hepSubQ for 48-72 hours
   - Obtain FLP, HgA1c, trend CEs
   - Tylenol PRN for normothermia
   # GI bleed: Pt w/ large amount of melena/brb output per flexi seal and
   passed large clot yesterday, transfused total of 4 units yesterday,
   tagged RBC scan showed sigmoid bleeding, IR felt unable to intervene on
   clot. Hemodynamically stable.
   - active t+s, type and cross as well
   - GI consulted, appreciate recs
   - Transfusion goal >25
   - continue protonix
   - 3 large bore IVs
    # goals of care
   - family discussions pending, patient currently made DNR, considering
   CMO
   - F/u with family re: CMO status, whether they would appreciate hospice
   care.
   # Respiratory failure: Pt was intubated at OSH for airway protection/
   respiratory failure. ABG in ED showed 7.31/49/510. CXR remains clear.
   - Decrease FiO2
   - Continue on vent for airway protection
   # Bacteremia: GNR on outside hospital labs
   - call for further speciation
   - will follow cultures here which are all still NGTD
   - continue vanc and zosyn
   - f/u vanc level this morning
   # Hypernatremia: Na now 147 from 162 on admission likely due to
   hypovolemic hypernatremia. Adjusted serum sodium level for
   hyperglycemia is 167. Free water deficit was approximately 7.2L. Na to
   147 this AM
   - change to half-normal saline--free water repletion rate to D5 1/2NS
   at 75/hr
   - q6h lytes
   # Acute renal failure: Resolving, unknown baseline creatinine. Unlikely
   that rhabdomyolysis contributing to renal failure given relatively low
   level, more likely a component of prerenal etiology.
   - f/u u/o
   # Rhabdomyolysis: CK is rising (600->800) likely secondary to
   rhabdomyolysis after being down for unknown period of time.
   - Continue IVF
   - Trend CK [**Hospital1 7**]
   # Sacral ulcers: Large (8cm in diameter) eschars on L back and coccyx
   and heel suggest that patient was down for several days, GNRs in blood
   culture
   - Follow wound care recs
   - Debrided by surgery yesterday; no plan for further debridement
   - Continue on vanc/zosyn
   - F/u vanc level this AM and resume if low
   - F/u culture data
   - Appreciate [**Doctor First Name 213**] recs
   - sutures need to be removed [**5-2**]
   # NSTEMI/Troponin leak: At OSH pt had trop I of 0.06. EKG does not show
   evidence of ST changes. CKs here attributed to rhabdo. No longer an
   active issue.
   # Hypothermia: Possible reasons for pt's hypothermia include: central
   hypothermia, exposure, infection, hypothyroidism, adrenal
   insufficiency.
   - BAIR hugger prn, now off since yesterday
   - Will hold on checking [**Last Name (un) 402**] stim for now as pt maintaining BP's
   - Check TSH, blood, urine cultures
   # Identification:
   [**Known firstname **] [**Known lastname 14108**]
   - Picked up at: [**Location (un) 14111**]. [**Apartment Address(1) **], [**Name (NI) 880**], MA
   Father: [**Name (NI) 31**] [**2106**]
   Brother: [**Name (NI) 1053**]
   # CODE: DNR but intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2106-4-29**] 10:20 AM
   Multi Lumen - [**2106-4-29**] 01:00 PM
   Arterial Line - [**2106-4-30**] 08:06 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, intubated
   Disposition: ICU

2106-05-01 08:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Made CMO
   Started morphine drip
   All medications stopped
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2106-4-30**] 02:21 PM
   Piperacillin/Tazobactam (Zosyn) - [**2106-4-30**] 02:21 PM
   Infusions:
   Morphine Sulfate - 5 mg/hour
   Other ICU medications:
   Hydralazine - [**2106-4-30**] 12:00 PM
   Morphine Sulfate - [**2106-4-30**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-5-1**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 84 (79 - 105) bpm
   BP: 137/68(85) {84/43(52) - 137/68(85)} mmHg
   RR: 15 (8 - 31) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,081 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                  2,541 mL
                                                                    126 mL
   Blood products:
                                                                    540 mL
   Total out:
                                                                  2,035 mL
                                                                    520 mL
   Urine:
                                                                  2,035 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,046 mL
                                                                   -394 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 12 cmH2O
   Plateau: 12 cmH2O
   Compliance: 83.4 cmH2O/mL
   SpO2: 92%
   ABG: 7.53/18/199/17/-4
   Ve: 16.3 L/min
   PaO2 / FiO2: 199
   Physical Examination
   Appears comfortable
   Breathing regularly, without overt discomfort
   Labs / Radiology
   194 K/uL
   9.4 g/dL
   119 mg/dL
   2.5 mg/dL
   17 mEq/L
   3.7 mEq/L
   97 mg/dL
   123 mEq/L
   150 mEq/L
   26.3 %
   24.5 K/uL
        [image002.jpg]
                             [**2106-4-29**]  10:00 AM
                             [**2106-4-29**]  10:17 AM
                             [**2106-4-29**]  12:41 PM
                             [**2106-4-29**]  04:20 PM
                             [**2106-4-29**]  04:37 PM
                             [**2106-4-29**]  09:14 PM
                             [**2106-4-30**]  02:25 AM
                             [**2106-4-30**]  06:56 AM
                             [**2106-4-30**]  11:57 AM
                             [**2106-4-30**]  12:42 PM
   WBC
   20.3
   21.9
   18.7
   24.5
   Hct
   30.7
   28.0
   23.3
   26.6
   25.3
   26.3
   Plt
   223
   152
   134
   194
   Cr
   2.8
   2.7
   2.7
   2.6
   2.5
   TCO2
   23
   20
   20
   16
   Glucose
   193
   115
   155
   119
   119
   Other labs: PT / PTT / INR:14.5/29.4/1.3, CK / CKMB /
   Troponin-T:808/12/0.03, ALT / AST:70/63, Alk Phos / T Bili:58/2.2,
   Differential-Neuts:84.0 %, Band:1.0 %, Lymph:8.0 %, Mono:5.0 %, Eos:0.0
   %, Lactic Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:334 IU/L, Ca++:7.1
   mg/dL, Mg++:2.6 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   55 yo M with unknown past medical history presents after being found
   down with intraparenchymal hemorrhage, respiratory failure, acute renal
   failure, hypothermia, GI bleeding, hypernatremia, anion-gap acidosis.
   Per discussion with family made comfort measures only on Friday [**4-30**].
   # Comfort: patient appears comfortable
    - continue morphine drip
   # Intraparenchymal hemorrhage:
   # GI bleed: Pt w/ large amount of melena/brb output per flexi seal and
   passed large clot yesterday, transfused total of 4 units yesterday,
   tagged RBC scan showed sigmoid bleeding, IR felt unable to intervene on
   clot. Hemodynamically stable.
   - active t+s, type and cross as well
   - GI consulted, appreciate recs
   - Transfusion goal >25
   - continue protonix
   - 3 large bore IVs
    # goals of care
   - family discussions pending, patient currently made DNR, considering
   CMO
   - F/u with family re: CMO status, whether they would appreciate hospice
   care.
   # Respiratory failure: Pt was intubated at OSH for airway protection/
   respiratory failure. ABG in ED showed 7.31/49/510. CXR remains clear.
   - Decrease FiO2
   - Continue on vent for airway protection
   # Bacteremia: GNR on outside hospital labs
   - call for further speciation
   - will follow cultures here which are all still NGTD
   - continue vanc and zosyn
   - f/u vanc level this morning
   # Hypernatremia: Na now 147 from 162 on admission likely due to
   hypovolemic hypernatremia. Adjusted serum sodium level for
   hyperglycemia is 167. Free water deficit was approximately 7.2L. Na to
   147 this AM
   - change to half-normal saline--free water repletion rate to D5 1/2NS
   at 75/hr
   - q6h lytes
   # Acute renal failure: Resolving, unknown baseline creatinine. Unlikely
   that rhabdomyolysis contributing to renal failure given relatively low
   level, more likely a component of prerenal etiology.
   - f/u u/o
   # Rhabdomyolysis: CK is rising (600->800) likely secondary to
   rhabdomyolysis after being down for unknown period of time.
   - Continue IVF
   - Trend CK [**Hospital1 7**]
   # Sacral ulcers: Large (8cm in diameter) eschars on L back and coccyx
   and heel suggest that patient was down for several days, GNRs in blood
   culture
   - Follow wound care recs
   - Debrided by surgery yesterday; no plan for further debridement
   - Continue on vanc/zosyn
   - F/u vanc level this AM and resume if low
   - F/u culture data
   - Appreciate [**Doctor First Name 213**] recs
   - sutures need to be removed [**5-2**]
   # NSTEMI/Troponin leak: At OSH pt had trop I of 0.06. EKG does not show
   evidence of ST changes. CKs here attributed to rhabdo. No longer an
   active issue.
   # Hypothermia: Possible reasons for pt's hypothermia include: central
   hypothermia, exposure, infection, hypothyroidism, adrenal
   insufficiency.
   - BAIR hugger prn, now off since yesterday
   - Will hold on checking [**Last Name (un) 402**] stim for now as pt maintaining BP's
   - Check TSH, blood, urine cultures
   # Identification:
   [**Known firstname **] [**Known lastname 14108**]
   - Picked up at: [**Location (un) 14111**]. [**Apartment Address(1) **], [**Name (NI) 880**], MA
   Father: [**Name (NI) 31**] [**2106**]
   Brother: [**Name (NI) 1053**]
   # CODE: DNR but intubated